US08877974B2
(2S,3R)-1-(Dimethylamino)-3-(3-methoxyphenyl)-2-methylpentan-3-ol (754.1 g, 3 mol, ee 95%) were dissolved in acetone (5 L) in a 10 L double jacket vessel equipped with an electrical impeller stirrer, a gas transition line, Pt100 temperature measuring equipment and an oil based cooling/heating system. Hydrogen chloride (110 g, 3.0 mol) was transferred within 15 minutes at a temperature of 15° C. through the reaction mixture. The reaction mixture was cooled to 0° C. to 5° C. and after 24 hours at that temperature siphoned off. The product was stored at 40° C. and 10 mbar for 14 hours in a drying oven. (2S,3R)-1-(Dimethylamino)-3-(3-methoxyphenyl)-2-methylpentan-3-ol hydrochloride was obtained as a colorless solid (722.3 g, 83.7%, ee 100%).

reactant | (2S,3R)-1-(Dimethylamino)-3-(3-methoxyphenyl)-2-methylpentan-3-ol | 3 mol, 754.1 g | CN(C[C@@H]([C@@](CC)(O)C1=CC(=CC=C1)OC)C)C | C15H25NO2
reactant | Pt100 | B([C@@H]1CCCN1C(=O)[C@H](C(C)C)N)(O)O.CS(=O)(=O)O
reactant | Hydrogen chloride | 3.0 mol, 110 g | Cl | ClH
solvent | acetone | 5 L | CC(=O)C | C3H6O
product | (2S,3R)-1-(Dimethylamino)-3-(3-methoxyphenyl)-2-methylpentan-3-ol hydrochloride | Cl.CN(C[C@@H]([C@@](CC)(O)C1=CC(=CC=C1)OC)C)C | InChI=1S/C15H25NO2.ClH/c1-6-15(17,12(2)11-16(3)4)13-8-7-9-14(10-13)18-5;/h7-10,12,17H,6,11H2,1-5H3;1H/t12-,15+;/m0./s1
